US05734051
1,3-Di-n-butyl-8-nitro Xanthine
1,3-Di-n-butylxanthine (73 g, 0.28 mol) was dissolved in acetic acid (120 ml) and then treated with concentrated nitric acid (49 g) at 87° C. After 1 hour, the mixture was cooled to 5° C., the resulting yellow precipitate filtered off and washed with water (50 ml). The yellow crystals were dissolved in dichloromethane and washed twice with water. The separated organic layer was then dried (anhydrous sodium sulphate) and concentrated to give a crystalline product, yield 73 g (86%), m.pt 168° C.

reactant | 1,3-Di-n-butylxanthine | 0.28 mol, 73 g | C(CCC)N1C(=O)N(C=2N=CNC2C1=O)CCCC | C13H20N4O2
reactant | nitric acid | 49 g | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
product | 1,3-Di-n-butyl-8-nitro Xanthine | C(CCC)N1C(=O)N(C=2N=C(NC2C1=O)[N+](=O)[O-])CCCC | C13H19N5O4
